US04255331
To a solution of 2 g p-toluene sulfonic acid in 100 ml isopropenylacetate was added 20 g of 9β,11β-epoxy-21-acetoxy-17-hydroxypregna-1,4-diene-3,20-dione and the mixture was kept at 80°-85° C. for 2.5 hr with exclusion of moisture. The resulting solution was cooled, neutralized with pyridine (3 ml) and evaporated under high vacuum to give crude 9β,11β-epoxy-3,17,21-triacetoxy-pregna-1,3,5-trien-20-one as a hard gum (25 g) which could not be induced to crystallize (λmax 301 nm ε=5400).

reactant | p-toluene sulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 9β,11β-epoxy-21-acetoxy-17-hydroxypregna-1,4-diene-3,20-dione | 20 g | O1[C@]23[C@]4(C=CC(C=C4CC[C@H]2[C@@H]2CC[C@](C(COC(C)=O)=O)([C@]2(C[C@@H]31)C)O)=O)C | C23H28O6
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | isopropenylacetate | 100 ml | C(=C)(C)CC(=O)[O-]
product | 9β,11β-epoxy-3,17,21-triacetoxy-pregna-1,3,5-trien-20-one | 25 g | O1[C@]23[C@]4(C=CC(=CC4=CC[C@H]2[C@@H]2CC[C@](C(COC(C)=O)=O)([C@]2(C[C@@H]31)C)OC(C)=O)OC(C)=O)C | C27H32O8
